US08222424B2
2-Chloro-5-{[4-(2,5-dihydro-pyrrol-1-yl)-phenyl]-hydroxy-methyl}-benzenesulfonamide
A solution of 100 mg of 2-chloro-5-((4-diallylamino-phenyl)-hydroxy-methyl)-benzenesulfonamide (0.25 mmol, 1 equivalent) in 5 mL of chloroform is degassed with argon for 5 minutes, then 5 mg of Grubb's catalyst (0.005 mmol, 2% mmol) is added. The reaction mixture is stirred at room temperature for 1 h, then diluted with dichloromethane, filtered through Celite, and a pad of silica gel, then concentrated in vacuo to give 70 mg of the title compound which is carried forward without further purification.

reactant | 2-chloro-5-((4-diallylamino-phenyl)-hydroxy-methyl)-benzenesulfonamide | 0.25 mmol, 100 mg, 1 equivalent | ClC1=C(C=C(C=C1)C(O)C1=CC=C(C=C1)N(CC=C)CC=C)S(=O)(=O)N | C19H21ClN2O3S
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | Grubb's catalyst | 0.005 mmol, 5 mg | Cl[Ru](Cl)([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)([P](C4CCCCC4)(C5CCCCC5)C6CCCCC6)=CC7=CC=CC=C7
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Chloro-5-{[4-(2,5-dihydro-pyrrol-1-yl)-phenyl]-hydroxy-methyl}-benzenesulfonamide | 70 mg | ClC1=C(C=C(C=C1)C(O)C1=CC=C(C=C1)N1CC=CC1)S(=O)(=O)N | C17H17ClN2O3S
